US04710579
In 200 ml of dried dichloromethane was dissolved 32.0 g (53.4 mmole) of 1-trityl-3-octadecylglycerol, and 22.4 ml of dried pyridine and then a solution of 6.7 ml (57.9 mmole) of benzoyl chloride in 100 ml of dried dichloromethane were added dropwise to the solution under stirring at 0° to 3° C. over the period of time of 30 minutes. The reaction mixture was stirred at room temperature for another 2 hours, and then concentrated under reduced pressure. 200 ml of ether was added to the residue, and the insoluble material was filtered off. The filtrate was concentrated, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 28.8 g (7%) of 2-benzoyl-3-octadecyl-1-tritylglycerol as an oily material.

reactant | 1-trityl-3-octadecylglycerol | 53.4 mmole, 32.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCC(O)COCCCCCCCCCCCCCCCCCC | C40H58O3
reactant | pyridine | 22.4 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 57.9 mmole, 6.7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-benzoyl-3-octadecyl-1-tritylglycerol | 28.8 g, 7% | C(C1=CC=CC=C1)(=O)OC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCCCCCCCCCCCCCCCCCC | C47H62O4
